US08053442B2
To a solution of 6-chloro-5-fluoroindole (1.8 g, 10.8 mmol) and Ac2O (10 mL) in AcOH (30 mL) was added L-serine (2.2 g, 20.9 mmol), the mixture was heated to 80° C. After TLC indicated the reaction was complete, the mixture was cooled to 0° C., neutralized to pH 11, and washed with MTBE. The aqueous phase was acidified to pH 2 and extracted with EtOAc. The combined organic layers were washed with water and brine, dried with Na2SO4, filtered, and concentrated. The residue was purified with chromatography (Petroleum ether/EtOAc 1:1) to give 2-acetylamino-3-(6-chloro-5-fluoro-1H-indol-3-yl)-proprionic acid as a light yellow solid (1.2 g, 37% yield).

reactant | 6-chloro-5-fluoroindole | 10.8 mmol, 1.8 g | ClC1=C(C=C2C=CNC2=C1)F | C8H5ClFN
reactant | Ac2O | 10 mL | CC(=O)OC(=O)C | C4H6O3
reactant | L-serine | 20.9 mmol, 2.2 g | N[C@@H](CO)C(=O)O | C3H7NO3
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 2-acetylamino-3-(6-chloro-5-fluoro-1H-indol-3-yl)-proprionic acid | 1.2 g, 37% yield | C(C)(=O)NC(C(=O)O)CC1=CNC2=CC(=C(C=C12)F)Cl | C13H12ClFN2O3
